US07153855B2
To a solution of (2E)-3-(dimethylamino)-1-[2-(4-methoxyphenyl)-7-(1-pyrrolidinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propen-1-one (500 mg, 1.28 mmol) in dimethylformamide (10 mL) was added guanidine sulfate (277 mg, 1.28 mmol), followed by potassium carbonate (195 mg, 1.41 mmol). The resulting solution was heated at reflux for 6 hours. After cooling to room temperature, ethyl acetate and water were added. The phases were separated and aqueous phase extracted with additional ethyl acetate. The combined organics were dried (magnesium sulfate), filtered and concentrated in vacuo to give 4-[2-(4-methoxyphenyl)-7-(1-pyrrolidinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine (440 mg, 89%) as a yellow solid. 1H NMR (CDCl3): δ 7.98 (d, 1H), 7.80 (d, 1H), 7.56 (dd, 2H), 7.20 (t, 1H), 6.92 (d, 2H), 6.43 (d, 1H), 6.05 (d, 1H), 4.95 (b, 2H), 3.83 (s, 3H), 3.74–3.70 (m, 4H), 2.01–1.98 (m, 4H); MS m/z 387 (M+1).

reactant | (2E)-3-(dimethylamino)-1-[2-(4-methoxyphenyl)-7-(1-pyrrolidinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propen-1-one | 1.28 mmol, 500 mg | CN(/C=C/C(=O)C=1C(=NN2C1C=CC=C2N2CCCC2)C2=CC=C(C=C2)OC)C | C23H26N4O2
reactant | guanidine sulfate | 1.28 mmol, 277 mg | S(=O)(=O)(O)O.NC(=N)N
reactant | potassium carbonate | 1.41 mmol, 195 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[2-(4-methoxyphenyl)-7-(1-pyrrolidinyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinamine | 440 mg, 89% | COC1=CC=C(C=C1)C1=NN2C(C=CC=C2N2CCCC2)=C1C1=NC(=NC=C1)N | C22H22N6O
